US07851463B2
N-[4-(1-Propyl-azetidin-3-yl)-phenyl]-4-(3,3,3-trifluoro-propyl)-benzenesulfonamide
Following the same procedure as described in example 55, 4-(1-propyl-azetidin-3-yl)phenylamine (100 mg, 0.52 mmol) in CH2Cl2/pyridine 9:1 (12 ml) was treated with 4-(3,3,3-trifluoro-propyl)-benzenesulfonyl chloride (214 mg, 0.78 mmol). Purification of the crude product by flash column chromatography (CH2Cl2:methanol, 95:5) provided the title compound (26 mg, 11%) as a colourless gum.

reactant | 4-(1-propyl-azetidin-3-yl)phenylamine | 0.52 mmol, 100 mg | C(CC)N1CC(C1)C1=CC=C(C=C1)N | C12H18N2
reactant | 4-(3,3,3-trifluoro-propyl)-benzenesulfonyl chloride | 0.78 mmol, 214 mg | FC(CCC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C9H8ClF3O2S
solvent | CH2Cl2 pyridine | 12 ml | C(Cl)Cl.N1=CC=CC=C1
product | N-[4-(1-Propyl-azetidin-3-yl)-phenyl]-4-(3,3,3-trifluoro-propyl)-benzenesulfonamide | 26 mg, 11% | C(CC)N1CC(C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)CCC(F)(F)F | C21H25F3N2O2S
